US08865739B2
To a solution of (2-amino-5-chlorophenyl)(phenyl)methanone (1.16 g, 5.0 mmol) in ethanol (20 ml) was added (R)-1-phenylethyl 3-oxobutanoate (1.3 g, 6.5 mmol) followed by ytterbium triflate (294 mg, 0.5 mmol). The mixture was stirred at room temperature for 12 hours, then the ethanol was removed under reduced pressure, and the residual viscous oil dissolved in ethyl acetate. The organic phase was poured into a separatory funnel and washed with 1M aqueous hydrochloric acid, water, then brine. The organic phase was separated, and the solvent was removed under reduced pressure to provide a viscous oil. This was dissolved in a small amount of diethyl ether, and the solution allowed to stand at room temperature overnight. The white precipitate formed was filtered, washed with cold diethyl ether, and dried under reduced pressure, to provide (R)-1-phenylethyl 6-chloro-2-methyl-4-phenylquinoline-3-carboxylate (1.33 g, 67%) as a white powder. Rf=0.26 using 80:20 hexanes:ethyl acetate eluent on glass backed silica gel plates. 1H NMR (CDCl3, 400 MHz) δ 8.98 (d, 1H, J=8.9 Hz); 7.96 (d, 1H, J=7.4 Hz); 7.72 (d, 1H, J=1.95 Hz); 7.6-7.1 (m, 10H); 5.88 (q, 1H, J=6.6 Hz); 3.05 (s, 3H); 1.3 (d, 3H, J=6.6 Hz). LC MS (CI) shows M+H 402.

reactant | (2-amino-5-chlorophenyl)(phenyl)methanone | 5.0 mmol, 1.16 g | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=CC=C1 | C13H10ClNO
reactant | (R)-1-phenylethyl 3-oxobutanoate | 6.5 mmol, 1.3 g | O=C(CC(=O)O[C@H](C)C1=CC=CC=C1)C | C12H14O3
reactant | ytterbium triflate | 0.5 mmol, 294 mg | [O-]S(=O)(=O)C(F)(F)F.[Yb+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (R)-1-phenylethyl 6-chloro-2-methyl-4-phenylquinoline-3-carboxylate | 1.33 g, 67% | ClC=1C=C2C(=C(C(=NC2=CC1)C)C(=O)O[C@H](C)C1=CC=CC=C1)C1=CC=CC=C1 | C25H20ClNO2
